US09353107B2
Step-iii: N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(2-hydroxyethoxy)phenyl)methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(2-hydroxyethoxyl)phenyl) methanesulfonamide (150 mg, 0.208 mmol) was hydrolyzed by lithium hydroxide (88 mg, 2.08 mmol), THF/Methanol/water (3/3/1.5 ml) to afford 15 mg (15.38% yield) of the title compound. 1H NMR (DMSO-d6, 300 MHz): δ11.9 (s, 1H), 9.00 (s, 1H), 8.49 (s, 1H), 7.81 (s, 1H), 7.59 (s, 1H), 7.51-7.41 (m, 3H), 7.15-7.12 (d, 1H), 7.05-7.03 (m, 1H), 6.87 (s, 1H), 4.06 (m, 2H), 3.78 (m, 2H), 3.00 (s, 3H), 2.18-2.14 (d, 6H), MS: m/z=550.1 (M+1), HPLC: 87.11% in Method B.

reactant | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(2-hydroxyethoxyl)phenyl) methanesulfonamide | 0.208 mmol, 150 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OCCO)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C35H34FN5O6S2
reactant | lithium hydroxide | 2.08 mmol, 88 mg | [OH-].[Li+]
solvent | THF Methanol water | 1.5 ml | C1CCOC1.CO.O
product | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(2-hydroxyethoxy)phenyl)methanesulfonamide | 15 mg, 15.38% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OCCO)C)C=CC1 | C28H28FN5O4S
